US07368578B2
A mixture of (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenethioamide (0.45 gmmol), ethyl bromopyruvate (0.20 g) and ethanol (30 mL) was heated under reflux for 1 hr. The reaction mixture was concentrated and ethyl acetate was added to the residue. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 2-((E)-2-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}ethenyl)-1,3-thiazole-4-carboxylate as yellow crystals (0.35 g, yield 66%) from a fraction eluted with ethyl acetate-hexane (2:1, v/v). Recrystallization from ethyl acetate-hexane gave yellow prism crystals. melting point: 156-157° C.

reactant | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenethioamide | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(N)=S)C2=CC=CC=C2)C=C1)OC)C | C29H26N4O5S
reactant | ethyl bromopyruvate | 0.20 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 2-((E)-2-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}ethenyl)-1,3-thiazole-4-carboxylate | 0.35 g, yield 66% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C=2SC=C(N2)C(=O)OCC)C2=CC=CC=C2)C=C1)OC)C | C34H30N4O7S
